US04782169
1,6-Dimethyl-4,7-dioxatricyclo(3.2.1.03,6)-octan-2-ol, (1RS,2RS).
To a solution of 1.5 g of the epoxide of Embodiment 2 above in 10 ml of tetrahydrofuran under nitrogen was added dropwise at room temperature 5.5 ml of diisobutylaluminum hydride. The reaction mixture was stirred overnight, and then 40 ml of a solution of 35:5 water:acetic acid was added. The reaction mixture was extracted thrice with 100 ml methylene chloride, the combined methylene chloride extracts was dried (Na2SO4), the solvent was evaporated, and the residue was flash chromatographed with 8:2 methylene chloride:ethylacetate as eluent. The third fraction was treated to remove solvent to give 0.3 g of the desired product as a yellow oil.

reactant | diisobutylaluminum hydride | 5.5 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1,6-Dimethyl-4,7-dioxatricyclo(3.2.1.03,6)-octan-2-ol | 0.3 g | CC12C(C3OC(C3(O1)C)C2)O | C8H12O3
